US06740655B2
To a stirred solution of p-acetylbenzonitrile (3.0 g, 20.0 mmol) in tetrahydrofuran at −78° C. was added drop-wise a solution of 3.0 M methyl magnesium chloride in tetrahydrofuran (7.6, 23.0 mmol). The reaction mixture was stirred at −78° C. for 3 hours and then quenched with methanol added drop-wise. The reaction mixture was thereafter poured into water (200 ml), acidified with oxalic acid added portion-wise, and then extracted with diethyl ether (2×200 ml). The organic extracts were combined, washed with water (1×40 ml), brine (1×40 ml), dried over magnesium sulfate (MgSO4), and then concentrated to give an oil. The oil product was purified using chromatography on silica gel, eluting with ethyl acetate/hexane (1:5), to give 1.4 g of 4-(1-Hydroxy-1-methyl-ethyl)-benzonitrile as a clear oil.

reactant | p-acetylbenzonitrile | 20.0 mmol, 3.0 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | methyl magnesium chloride | 3.0 M | C[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23.0 mmol | O1CCCC1 | C4H8O
product | 4-(1-Hydroxy-1-methyl-ethyl)-benzonitrile | 1.4 g | OC(C)(C)C1=CC=C(C#N)C=C1 | C10H11NO
